US05688798
A solution of 0.37 g (0.0012 mol) of 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine in 20 ml of methanol was treated with 0.37 ml (0.00129 mol) of 3.5N ethanolic hydrochloric acid, The solution was completely freed from the solvents and the residue was recrystallized from ethanol. 0.36 g (87%) of 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine hydrochloride (1:1.2) was obtained as white crystals; m.p. 240°-242°.

reactant | 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine | 0.0012 mol, 0.37 g | CC1=NC=C(C(=N1)N)CN1CCN(CC1)CCC1=CC=CC=C1 | C18H25N5
reactant | hydrochloric acid | 0.00129 mol, 3.5N, 0.37 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine hydrochloride | 0.36 g, 87% | Cl.CC1=NC=C(C(=N1)N)CN1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C18H25N5.ClH/c1-15-20-13-17(18(19)21-15)14-23-11-9-22(10-12-23)8-7-16-5-3-2-4-6-16;/h2-6,13H,7-12,14H2,1H3,(H2,19,20,21);1H
